US08470851B2
N-(3-Cyclopropyl-4-((4-methylpiperazin-1-yl)methyl)phenyl)-3-(imidazo[1,2-b]pyridazin-3-ylethynyl)-4-methylbenzamide
The title compound was synthesized from 3-ethynylimidazo[1,2-b]pyridazine and N-(3-cyclopropyl-4-((4-methylpiperazin-1-yl)methyl)phenyl)-3-iodo-4-methylbenzamide in a manner similar to that described for Example 14 (nitro reduction performed in a manner similar to that described for Example 17; 0.25M in MeOH/10% AcOH). The product was obtained as a solid: 505 m/z (M+H).

reactant | 3-ethynylimidazo[1,2-b]pyridazine | C(#C)C1=CN=C2N1N=CC=C2 | C8H5N3
reactant | N-(3-cyclopropyl-4-((4-methylpiperazin-1-yl)methyl)phenyl)-3-iodo-4-methylbenzamide | C1(CC1)C=1C=C(C=CC1CN1CCN(CC1)C)NC(C1=CC(=C(C=C1)C)I)=O | C23H28IN3O
solvent | MeOH | CO | CH4O
product | N-(3-Cyclopropyl-4-((4-methylpiperazin-1-yl)methyl)phenyl)-3-(imidazo[1,2-b]pyridazin-3-ylethynyl)-4-methylbenzamide | C1(CC1)C=1C=C(C=CC1CN1CCN(CC1)C)NC(C1=CC(=C(C=C1)C)C#CC1=CN=C2N1N=CC=C2)=O | C31H32N6O
